US06620438B2
From 47.4 g of 1-benzyl-4-(3-hydroxypropylamino)-piperidine-dihydrochloride the base is liberated, combined with 63 ml of 85% formic acid and 22 ml of 37% formaldehyde solution and stirred for two hours at about 90-100° C. The mixture is left to cool, 37 ml of formic acid and 11 ml of formaldehyde solution are added and it is stirred for another hour at about 100-110° C. It is left to cool, combined with 150 ml of methanol, made alkaline with about 270 ml of 32% sodium hydroxide solution with cooling and stirred for about another 30 minutes at 40-50° C. and then the methanol is distilled off. The residue is extracted with twice 100 ml of methylene chloride, the combined methylene chloride phases are dried, filtered and freed from solvent in vacuo. The residue is taken up in 80 ml Ethanol, acidified with 34 ml of 32% hydrochloric acid, combined with 100 ml of acetone and stirred. As soon as crystals have been precipitated more acetone is added. The precipitate is suction filtered, washed with acetone and dried. 42.8 g of 1-benzyl-4-[-(3-hydroxypropyl)-methylamino]-piperidine-dihydrochloride are obtained in the form of a solid.

reactant | 1-benzyl-4-(3-hydroxypropylamino)-piperidine-dihydrochloride | 47.4 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NCCCO
reactant | formic acid | 63 ml | C(=O)O | CH2O2
reactant | formaldehyde | 22 ml | C=O | CH2O
reactant | formic acid | 37 ml | C(=O)O | CH2O2
reactant | formaldehyde | 11 ml | C=O | CH2O
reactant | sodium hydroxide | about 270 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-benzyl-4-[-(3-hydroxypropyl)-methylamino]-piperidine-dihydrochloride | 42.8 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)N(C)CCCO | InChI=1S/C16H26N2O.2ClH/c1-17(10-5-13-19)16-8-11-18(12-9-16)14-15-6-3-2-4-7-15;;/h2-4,6-7,16,19H,5,8-14H2,1H3;2*1H
